US07700598B2
46c (R)-3-(3,5-bis-trifluoromethyl-phenyl)-2-hydroxy-propionic acid
16.1 g (53.6 mmol) 3-(3,5-bis-trifluoromethyl-phenyl)-2-oxo-propionic acid in 9.5 (70.0 mmol) triethylamine and 100 mL THF were combined at −35° C. with a solution of 26.0 (81.1 mmol) (1R)—B-chlorodiisopinocampheylborane in 40 mL THF within 30 min, stirred for 1 h at this temperature and stirred overnight at RT. After the reaction had ended the reaction mixture was made alkaline at 0° C. with 160 mL 1 M NaOH, stirred for 15 min, combined with 100 mL TBME and the phases were separated. The organic phase was washed with 50 mL water and 50 mL 1 M NaOH. The combined aqueous phases were acidified with 4 M HCl, exhaustively extracted with TBME, the combined organic phases were dried over Na2SO4, suction filtered through activated charcoal and evaporated down i.vac. The product was reacted further without purification.

reactant | 3-(3,5-bis-trifluoromethyl-phenyl)-2-oxo-propionic acid | 53.6 mmol, 16.1 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(C(=O)O)=O)(F)F | C11H6F6O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1 M, 160 mL | [OH-].[Na+]
reactant | TBME | 100 mL | CC(C)(C)OC | C5H12O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-3-(3,5-bis-trifluoromethyl-phenyl)-2-hydroxy-propionic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)C[C@H](C(=O)O)O)(F)F | C11H8F6O3
